US07420079B2
A 2-liter three-necked flask equipped with a mechanical stirrer, thermometer, condenser, pressure equalizing addition funnel and an argon inlet was charged with zinc dust (78.0 g, 1.19 mol) followed by the addition of anhydrous tetrahydrofuran (400 ml). To this mixture was added 1,2-dibromoethane (2 ml) to activate the zinc. The resulting mixture was heated at a gentle reflux for 25 minutes. After cooling to −55° C., a solution of methyl trichloroacetate (100.3 g, 0.565 mol) and chlorotrimethylsilane (80 ml, 0.648 mol) was added at a rate to maintain the reaction temperature at −55 to −60° C. (1 hour required). After the addition was complete, the mixture was allowed to stir at room temperature for approximately 90 minutes. The resulting mixture was diluted with heptane (700 ml) and filtered under nitrogen through a Celite 545 pad. The filtercake was washed with additional heptane (1×300 ml, 3×200 ml). The filtrate was then concentrated at reduced pressure on a rotary evaporator (approximately 10-15 mm Hg with a 22-27° C. water bath) to give crude (2,2-dichloro-1-methoxy-vinyloxy)-trimethylsilane as a dense oil (129.2 g). Quantitative proton NMR indicates this crude material contains 0.389 mol (68.8%) of (2,2-dichloro-1-methoxy-vinyloxy)-trimethylsilane.

reactant | tetrahydrofuran | 400 ml | O1CCCC1 | C4H8O
reactant | 1,2-dibromoethane | 2 ml | BrCCBr | C2H4Br2
reactant | methyl trichloroacetate | 0.565 mol, 100.3 g | ClC(C(=O)OC)(Cl)Cl | C3H3Cl3O2
reactant | chlorotrimethylsilane | 0.648 mol, 80 ml | Cl[Si](C)(C)C | C3H9ClSi
solvent | heptane | 700 ml | CCCCCCC | C7H16
catalyst | zinc | 1.19 mol, 78.0 g | [Zn] | Zn
product | (2,2-dichloro-1-methoxy-vinyloxy)-trimethylsilane | 129.2 g | ClC(=C(O[Si](C)(C)C)OC)Cl | C6H12Cl2O2Si
